US03989707
A mixture of 7 parts of 1-chloro-4,4-bis(4-fluorophenyl)-butane, 5.5 parts of 5-chloro-1,3-dihydro-1-(2-methyl-4-piperidinyl)-2H-benzimidazol-2-one, 6.4 parts of sodium carbonate, 0.2 parts of potassium iodide and 160 parts of 4-methyl-2-pentanone is stirred and refluxed for 36 hours. After cooling, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The oily residue is converted into the hydrochloride salt in 2-propanol and 2,2'-oxybispropane. The salt is filtered off. The free base is liberated in the conventional manner and extracted with methylbenzene. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silicagel, using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The oily residue is crystallized from 2-propanol, yielding 5-chloro-1-{1-[4,4-bis(4-fluorophenyl)butyl]- 2-methyl-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 171.1° C.

reactant | 1-chloro-4,4-bis(4-fluorophenyl)-butane | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | 5-chloro-1,3-dihydro-1-(2-methyl-4-piperidinyl)-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CC(NCC2)C)C=C1 | C13H16ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 5-chloro-1-{1-[4,4-bis(4-fluorophenyl)butyl]- 2-methyl-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CC(N(CC2)CCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C)C=C1 | C29H30ClF2N3O
